data/oMe_Silver.jsonl
{"reaction_id": "NR-219_1-c1c(F)c(F)c(F)c(F)c1F_2-COCC_6-c1ccccc1C","level": "medium","name": "Pfitzner-Moffatt oxidation","reactants_smiles": ["O=S(C)C","O=C(O)C","OC(c1c(F)c(F)c(F)c(F)c1F)(COCC)","c1ccccc1CN=C=Nc1ccccc1C"],"products_smiles": ["S(C)C","O=C(O)C","O=C(c1c(F)c(F)c(F)c(F)c1F)(COCC)","c1ccccc1CNC(=O)Nc1ccccc1C"],"conditions": null,"mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N(c1ccccc1C)=C(N(c1ccccc1C))O[S+](C)C","step_weight": 0,"rationale": "The carbodiimide oxygen attacks DMSO sulfur because sulfur is electrophilic and polarizable; this forms an activated sulfonium intermediate stabilized by resonance with the carbodiimide."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N(c1ccccc1C)=C(N(c1ccccc1C))OS(C)(C)[O]Cc3ccccc3","step_weight": 0,"rationale": "The activated sulfonium intermediate reacts with the alcohol oxygen, whose lone pairs attack the electrophilic sulfur, favored by the good leaving ability of the carbodiimide-derived group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[NH](c1ccccc1C)C(=[NH+](c1ccccc1C))OS(C)(C)OC(c1c(F)c(F)c(F)c(F)c1F)(COCC)","step_weight": 0,"rationale": "Proton transfer occurs to neutralize charges and generate a better leaving group; acid–base equilibrium is facilitated by the polar environment and the basic nitrogen atoms."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1c(F)c(F)c(F)c(F)c1F)(COCC)[O][S](=C)C","step_weight": 0,"rationale": "The alkoxide oxygen attacks the activated sulfur, forming a sulfonium alkoxysulfonium species; this step is driven by the high electrophilicity of the sulfur center."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(c1c(F)c(F)c(F)c(F)c1F)(COCC)","step_weight": 0,"rationale": "Elimination occurs as the leaving group departs, driven by the formation of a stable carbonyl and the favorable expulsion of a neutral dimethyl sulfide."}],"description": "In the Pfitzner–Moffatt oxidation, DMSO is activated by a carbodiimide to form an electrophilic sulfonium species, which reacts with the alcohol. Subsequent proton transfers and elimination steps drive the conversion of the alcohol to a carbonyl compound under mild, non-aqueous conditions."}
{"reaction_id": "NR-135_1-C(C)(C)C_2-c1ccccc1_3-c1ccccc1_4-CC(C)C","name": "Luche Reduction","level": "medium","reactants_smiles": ["C(C(C)(C)C)(c1ccccc1)=C(c1ccccc1)C(=O)(CC(C)C)","[Na+].[BH4-]","Cl[Ce](Cl)Cl","CO"],"products_smiles": ["C(C(C)(C)C)(c1ccccc1)=C(c1ccccc1)C(O)(CC(C)C)"],"conditions": "NaBH4, CeCl3, MeOH","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(C(C)(C)C)(c1ccccc1)=C(c1ccccc1)C(=[O+][Ce-](Cl)(Cl)Cl)(CC(C)C)","rationale": "CeCl3, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the partial positive charge on the carbonyl carbon, making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(C)(C)C)(c1ccccc1)=C(c1ccccc1)C(O[Ce-](Cl)(Cl)Cl)(CC(C)C)","rationale": "NaBH4 delivers hydride to the activated carbonyl carbon; Ce coordination reduces conjugation with the alkene, favoring 1,2-addition over 1,4-addition under these mild conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(c1ccccc1)=C(c1ccccc1)C(O)(CC(C)C)","rationale": "The alkoxide–cerium complex is protonated by methanol, a protic solvent, to yield the neutral alcohol and regenerate the Lewis acid catalyst."}],"description": "CeCl3 coordinates to the carbonyl oxygen, enhancing electrophilicity and directing NaBH4 reduction selectively to the carbonyl over the conjugated alkene. Hydride addition yields an alkoxide–cerium complex, which is then protonated in methanol to give the allylic alcohol."}
